US07541372B2
2-{5-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridin-2-ylamino}-ethanol
As described for example 136b, 2-chloro-5-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine (200 mg, 0.59 mmol) was converted using ethanolamine instead of morpholine to the title compound (126 mg, 59%) which was obtained as an off-white solid. MS: m/e=364.3 [M+H]+.

reactant | 2-chloro-5-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 0.59 mmol, 200 mg | ClC1=NC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C17H11ClN4O2
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-{5-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridin-2-ylamino}-ethanol | 126 mg, 59% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C=1C=CC(=NC1)NCCO | C19H17N5O3
